US04329347
6-[5-(2-Pyridyl-mercapto)-pentoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 1 from 6-(5-bromo-pentoxy)-3,4-dihydro-carbostyril and 2-mercapto-pyridine.

reactant | 6-(5-bromo-pentoxy)-3,4-dihydro-carbostyril | BrCCCCCOC=1C=C2CCC(NC2=CC1)=O | C14H18BrNO2
reactant | 2-mercapto-pyridine | SC1=NC=CC=C1 | C5H5NS
product | 6-[5-(2-Pyridyl-mercapto)-pentoxy]-3,4-dihydro-carbostyril | N1=C(C=CC=C1)SCCCCCOC=1C=C2CCC(NC2=CC1)=O | C19H22N2O2S
